US09340547B2
(S)-tert-Butyl 1-(3-bromo-2-(1-(4-methoxybenzyl)-1H-pyrazol-4-ylcarbamoyl)-1H-pyrrol-1-ylamino)-1-oxopropan-2-ylcarbamate
This compound was prepared starting from (S)-methyl 3-bromo-1-(2-(tert-butoxycarbonylamino)propanamido)-1H-pyrrole-2-carboxylate (300 mg, 0.77 mmol) and 1-(4-methoxybenzyl)-1H-pyrazol-4-amine (469 mg, 2.31 mmol) following the experimental procedure described in Preparation 27a to afford 271 mg (96% purity, 60% yield) of the title compound after purification by flash chromatography (0% to 70% AcOEt/hexanes).

reactant | (S)-methyl 3-bromo-1-(2-(tert-butoxycarbonylamino)propanamido)-1H-pyrrole-2-carboxylate | 0.77 mmol, 300 mg | BrC1=C(N(C=C1)NC([C@H](C)NC(=O)OC(C)(C)C)=O)C(=O)OC | C14H20BrN3O5
reactant | 1-(4-methoxybenzyl)-1H-pyrazol-4-amine | 2.31 mmol, 469 mg | COC1=CC=C(CN2N=CC(=C2)N)C=C1 | C11H13N3O
product | (S)-tert-Butyl 1-(3-bromo-2-(1-(4-methoxybenzyl)-1H-pyrazol-4-ylcarbamoyl)-1H-pyrrol-1-ylamino)-1-oxopropan-2-ylcarbamate | 60% yield | BrC1=C(N(C=C1)NC([C@H](C)NC(OC(C)(C)C)=O)=O)C(NC=1C=NN(C1)CC1=CC=C(C=C1)OC)=O | C24H29BrN6O5
